US04611058
(1,5-didesoxy-1,5-imino-D-glucitol)
50 g (0.23 mol) of 6-amino-6-desoxy-L-sorbose hydrochloride were dissolved in 500 ml of distilled water, and the solution was added in the course of one hour to a solution of 11.2 g of dimethylaminoborane in 500 ml of distilled water, whilst stirring at a temperature of 50° C. The mixture was stirred for one hour at room temperature and one hour at 50° C., 5 ml of triethylamine were added to it, and it was then poured over a column containing 800 ml of strongly basic ion exchanger ("Lewatit" MP 500 OH- -form). The exchanger was washed with distilled water, and the runnings collected were concentrated to a syrup on a rotary evaporator. The concentrated syrup was crystallised at 50° C., with addition of a large amount of ethanol. The suspension of crystals was cooled and filtered off under suction, and the crystalline product was dried in a vacuum drying cabinet.

reactant | 6-amino-6-desoxy-L-sorbose hydrochloride | 0.23 mol, 50 g | Cl.NC[C@@H]([C@H]([C@@H](C(CO)=O)O)O)O
reactant | dimethylaminoborane | 11.2 g | CN(C)B | C2H8BN
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | water | 500 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | 1,5-didesoxy-1,5-imino-D-glucitol | N1C[C@H](O)[C@@H](O)[C@H](O)[C@H]1CO | C6H13NO4
